US07112397B2
Synthesis of 4,5-methylenedioxy-2-nitrobenzyl 3-(trimethoxysilyl)propyl ether
A 10-ml eggplant type flask was purged with nitrogen, and charged with 1.0 g (4.2 mmol) of allyl 3,4-methylenedioxy-6-nitrobenzyl ether, 0.616 g (5 mmol) of trimethoxysilane, and an infinitesimal amount of hydrogen hexachloroplatinate(IV) hexahydrate (H2PtCl6·6H2O), followed by stirring at 37° C. for 30 minutes. Thereafter, the bath temperature was raised to 100° C., and the reaction was completed in 2 hours. The reaction mixture was purified by silica gel column chromatography using a medium-pressure column. Using a mixture of hexane, ethyl acetate and tetramethoxysilane (in a volume ratio of 100:20: 1) as the eluent, 0.80 g (2.2 mmol) of the desired product was obtained in a 52% yield. Its Rf value (for the aforesaid eluent) was 0.1.

reactant | allyl 3,4-methylenedioxy-6-nitrobenzyl ether | 4.2 mmol, 1.0 g | C1OC=2C=C(COCC=C)C(=CC2O1)[N+](=O)[O-] | C11H11NO5
reactant | trimethoxysilane | 5 mmol, 0.616 g | CO[SiH](OC)OC | C3H10O3Si
catalyst | hydrogen hexachloroplatinate(IV) hexahydrate | [H+].[H+].O.O.O.O.O.O.Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 4,5-methylenedioxy-2-nitrobenzyl 3-(trimethoxysilyl)propyl ether | 2.2 mmol, 0.80 g, 52% yield | CO[Si](CCCOCC1=C(C=C2C(=C1)OCO2)[N+](=O)[O-])(OC)OC | C14H21NO8Si
